US07989449B2
1-Bromo-3-(1-phenyl-vinyl)-benzene [29265-79-0]
To a solution of 3-bromobenzophenone (2.2 g, 8.5 mmol, 1 eq) in 20 mL of dry tetrahydrofuran at 0° C. under N2 atmosphere, was added a toluene solution of the Tebbe's reagent (17 mL of 0.5 M solution, 8.5 mmol, 1 eq.) and the mixture was allowed to warm to room temperature. The reaction mixture was examined after 20 min by TLC (cyclohexane/ethyl acetate 2%) which showed complete conversion to the desired product. Diethyl ether (50 mL) was added and some drops of NaOH 0.1 M aqueous solution was slowly added to quench the reaction. The mixture was dried over magnesium sulfate, passed through a pad of Celite and evaporated. The solid formed was triturated with cyclohexane and filtered; the solution was collected and concentrated under reduced pressure. The crude was purified by flash chromatography eluting with cyclohexane. 2.02 g of clean product was obtained as colorless liquid (yield: 91%).

reactant | 3-bromobenzophenone | 8.5 mmol, 2.2 g, 1 eq | BrC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H9BrO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | Tebbe's reagent | 8.5 mmol, 0.5 M, 17 mL, 1 eq. | [CH3-].C[Al]C.[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Cl-].[Ti+4]
product | 1-Bromo-3-(1-phenyl-vinyl)-benzene | BrC1=CC(=CC=C1)C(=C)C1=CC=CC=C1 | C14H11Br
